US08980877B2
A solution of (±)-(E)-3-{1′-methyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (210 mg, 0.52 mmol) in DCM (6 ml) was treated with 4 M HCl in dioxane (1.0 ml) as described in Example 30, STEP C to give (±)-(E)-3-{1′-methyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-hydroxy-acrylamide (106 mg, hydrochloride salt) as a yellow solid.

reactant | (±)-(E)-3-{1′-methyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.52 mmol, 210 mg | CN1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C21H27N3O5
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | (±)-(E)-3-{1′-methyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-hydroxy-acrylamide | 106 mg | CN1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)NO | C16H19N3O4
